US05736534
N-[4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-7-yl]-hydroxylamine
4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-nitro-quinazoline hydrochloride (2.90 g, 7.98 mmol) was dissolved in 700 mL methanol and hydrogenated with 10% palladium on carbon (0.50 g) for 10 minutes at 3 atm. Reaction mixture was filtered through celite and diluted with 1.5 L diethyl ether. Product was filtered and dried under vacuum to give bright yellow solid, 2.23 g (80%):M.P. 262°-263° C. (dec); GC-MS: 313 (M+), 315 (M+ +2); Calc. C16H13ClN4O.HCl: C,55.03; H,4.04; N,16.04; Found: C,55.18; H,4.28; N,16.13.

reactant | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-nitro-quinazoline hydrochloride | 7.98 mmol, 2.90 g | Cl.ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=CC=C12)[N+](=O)[O-]
solvent | methanol | 700 mL | CO | CH4O
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
product | N-[4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-7-yl]-hydroxylamine | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=CC=C12)NO | C16H13ClN4O
